US07781478B2
A mixture of {4-[3-cyano-1-cyclobutyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indol-2-yl]-phenyl}-carbamic acid 1-cyclopropyl-ethyl ester (0.2 g, 0.38 mmol), 2-chloropyrimidine (39 mg, 0.34 mg), Pd(PPh3)4 (22 mg, 0.095 mmol) and cesium fluoride (0.116 g, 0.76 mmol) in DME (2.0 mL) was stirred at 100° C. for 16 h. The mixture was then diluted with EtOAc (20 mL), washed with water and brine, dried over Na2SO4, concentrated and purified on silica gel (CH2Cl2/EtOAc) to provide [4-(3-cyano-1-cyclobutyl-6-pyrimidin-2-yl-1H-indol-2-yl)-phenyl]-carbamic acid 1-cyclopropyl-ethyl ester as a solid (0.15 g, 82%).

reactant | {4-[3-cyano-1-cyclobutyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indol-2-yl]-phenyl}-carbamic acid 1-cyclopropyl-ethyl ester | 0.38 mmol, 0.2 g | C1(CC1)C(C)OC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)B1OC(C(O1)(C)C)(C)C)C1CCC1)=O | C31H36BN3O4
reactant | 2-chloropyrimidine | 39 mg | ClC1=NC=CC=N1 | C4H3ClN2
reactant | cesium fluoride | 0.76 mmol, 0.116 g | [F-].[Cs+]
solvent | DME | 2.0 mL | COCCOC | C4H10O2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.095 mmol, 22 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [4-(3-cyano-1-cyclobutyl-6-pyrimidin-2-yl-1H-indol-2-yl)-phenyl]-carbamic acid 1-cyclopropyl-ethyl ester | 0.15 g, 82% | C1(CC1)C(C)OC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)C1=NC=CC=N1)C1CCC1)=O | C29H27N5O2
